US06559145B2
Methyl 4-hydroxy-1-benzothiophene-5-carboxylate [BI.4].
A solution containing methyl 5-bromo4-oxo-4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate (Preparation 12, 1.18 g) and lithium carbonate (1.81 g) in anhydrous DMF (10 mL) is heated at 100° C. overnight. After cooling, the solids are removed by filtration and the filtrate is partitioned between ethyl acetate (50 mL) and water (50 mL). The organic layer is washed with brine, dried over Na2SO4, filtered, and concentrated to give a brown solid. This crude product is chromatographed on a Biotage column eluting with 0-20% ethyl acetate in heptane (250 mL each 10%) to give 270 mg (32%) of the title compound as a white solid. Physical characteristics: Mp 94-95° C.; MS (ESI−) m/z 207.0 (M−H)−. Anal. found: C, 57.26; H, 3.88; N, 0.17.

reactant | methyl 5-bromo4-oxo-4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate | 1.18 g | BrC1(CCC2=C(C=CS2)C1=O)C(=O)OC | C10H9BrO3S
reactant | lithium carbonate | 1.81 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 4-hydroxy-1-benzothiophene-5-carboxylate | 270 mg, 32% | OC1=C(C=CC2=C1C=CS2)C(=O)OC | C10H8O3S
